US06117901
To a solution of 3.5 g of 3,5-dichlorobenzyl alcohol (Aldrich) in 75 mL of dichloromethane at 0° C. was added 1.8 mL of methane sulfonylchloride followed by 3.5 mL of triethylamine added dropwise. After 2 hours the solution was diluted to 150 mL with dichloromethane, washed with 3N HCl, saturated aqueous NaHCO3 dried with Na2SO4 and the solvents removed to yield the desired 3,5-dichlorobenzyl methanesulfonate as a yellow oil that was used without purification.

reactant | 3,5-dichlorobenzyl alcohol | 3.5 g | ClC=1C=C(CO)C=C(C1)Cl | C7H6Cl2O
reactant | methane sulfonylchloride | 1.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3,5-dichlorobenzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC(=C1)Cl)Cl | C8H8Cl2O3S
